US04338314
4 g 1,2,3,4,4a,5-hexahydro-9-chloro-3-(β-hydroxyethyl)-7-phenyl-pyrazino[1,2-a][1,4]benzodiazepindihydrochloride.
2.5 mole H2O are heated under reflux with 15 ml thionylchloride for 20 minutes. The solvent is subsequently removed and the base yielded with dilute water sodium hydroxide solution under cooling with ice and subsequently isolated from chloroform. 3.2 g of 1,2,3,4,4a,5-hexahydro-9-chloro-3-(β-chlorethyl)7-phenyl-pyrazino[1,2-a][1,4]benzodiazepinedihydrochloride.1.0 mole H2O.0.6 mole Isopropanol has been crystallized from isopropanol said compound having a freezing point of 220° C. (decomposing).

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 1,2,3,4,4a,5-hexahydro-9-chloro-3-(β-chlorethyl)7-phenyl-pyrazino[1,2-a][1,4]benzodiazepinedihydrochloride | 3.2 g | Cl.Cl.ClC=1C=CC2=C(C(=NCC3N2CCN(C3)CCCl)C3=CC=CC=C3)C1
reactant | H2O | 1.0 mole | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | Isopropanol | 0.6 mole | C(C)(C)O | C3H8O
product | 1,2,3,4,4a,5-hexahydro-9-chloro-3-(β-hydroxyethyl)-7-phenyl-pyrazino[1,2-a][1,4]benzodiazepindihydrochloride | Cl.Cl.ClC=1C=CC2=C(C(=NCC3N2CCN(C3)CCO)C3=CC=CC=C3)C1 | InChI=1S/C20H22ClN3O.2ClH/c21-16-6-7-19-18(12-16)20(15-4-2-1-3-5-15)22-13-17-14-23(10-11-25)8-9-24(17)19;;/h1-7,12,17,25H,8-11,13-14H2;2*1H
